* Extracted by KLayout with SG13CMOS5L LVS runset on : 23/08/2026 19:46

.SUBCKT vbias gd vbias vp
X$4 gd \$15 vp curr_source
M$1 \$7 \$8 vbias gd sg13_lv_nmos L=0.6u W=3.6u AS=1.224p AD=1.224p PS=7.88u
+ PD=7.88u rfmode=0
M$2 gd \$7 \$7 gd sg13_lv_nmos L=0.6u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u rfmode=0
R$3 vbias \$8 gd rppd w=1u l=1.7u ps=0u b=0 m=1
M$4 vp \$15 \$8 vp sg13_lv_pmos L=0.6u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u rfmode=0
M$5 gd gd gd gd sg13_lv_nmos L=0.6u W=1.86u AS=0.6324p AD=0.6324p PS=4.4u
+ PD=4.4u rfmode=0
M$6 vp vp vp vp sg13_lv_pmos L=0.6u W=1.375u AS=0.4675p AD=0.4675p PS=3.43u
+ PD=3.43u rfmode=0
.ENDS vbias

.SUBCKT curr_source gd iref vp
R$1 gd \$14 gd rppd w=1u l=1.7u ps=0u b=0 m=1
M$2 gd gd gd gd sg13_lv_nmos L=0.6u W=0.4u AS=0.136p AD=0.136p PS=1.48u
+ PD=1.48u rfmode=0
M$3 gd \$9 \$9 gd sg13_lv_nmos L=0.6u W=1.4u AS=0.476p AD=0.476p PS=3.48u
+ PD=3.48u rfmode=0
M$4 vp iref \$9 vp sg13_lv_pmos L=0.6u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u rfmode=0
M$5 gd \$7 \$7 gd sg13_lv_nmos L=0.6u W=1u AS=0.34p AD=0.34p PS=2.68u PD=2.68u
+ rfmode=0
M$6 vp vp \$7 gd sg13_lv_nmos L=0.6u W=1u AS=0.34p AD=0.34p PS=2.68u PD=2.68u
+ rfmode=0
M$7 vp \$7 iref gd sg13_lv_nmos L=0.6u W=1u AS=0.34p AD=0.34p PS=2.68u PD=2.68u
+ rfmode=0
M$8 iref iref vp vp sg13_lv_pmos L=0.6u W=1.4u AS=0.476p AD=0.476p PS=3.48u
+ PD=3.48u rfmode=0
M$9 iref \$9 \$14 gd sg13_lv_nmos L=0.6u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u rfmode=0
.ENDS curr_source
